US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(3-thienyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-(3-thienyl)thiophene-2-sulfonyl chloride in 40% yield. This was purified by HPLC (5% CH3CN to 100% CH3CN over 30 min.) give a solid.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-(3-thienyl)thiophene-2-sulfonyl chloride | S1C=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C8H5ClO2S3
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(3-thienyl)thiophene-2-sulfonamide | 40% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CSC=C1)C | C12H9BrN2O3S3
